US05639778
9-Bromo-6-dipropylamino-5,6,7,8-tetrahydro-1H-benzo[f]indol-3-carbaldehyde (12d, Chart 2)
A solution of (9-Bromo-5,6,7,8-tetrahydro-1H-benzo[f]indol-6-yl)-dipropyl amine (50 mg, 0.14 mmol) in N,N-dimethyl formamide (3 mL) was cooled to 0° C. To this solution was added a cooled solution of phosphorus oxychloride (26 μL, 0.28 mmol) in N,N-dimethyl formamide (1 mL), which had been prepared 20 minutes previous to use. The mixture was stirred at ambient temperature for 30 minutes and then for 30 minutes at 50° C. an additional 30 minutes. The reaction mixture was then treated with a 1M sodium hydroxide solution (5 mL) with heating and stirring maintained for an additional hour. After cooling, the solution was diluted with water (25 mL) and extracted with several portions of diethyl ether. The combined etheral extracts were washed with water, brine, dried over magnesium sulfate, and the solvent evaporated. The residue was chromatographed on a silica column, using methanol as the eluant. This was then repeated with diethyl ether as eluant. The yield of the pure title compound was 50 mg (95%).:

reactant | (9-Bromo-5,6,7,8-tetrahydro-1H-benzo[f]indol-6-yl)-dipropyl amine | 0.14 mmol, 50 mg | BrC=1C2=C(C=C3C=CNC13)CC(CC2)N(CCC)CCC | C18H25BrN2
reactant | phosphorus oxychloride | 0.28 mmol, 26 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 1M, 5 mL | [OH-].[Na+]
reactant | N,N-dimethyl formamide | 3 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethyl formamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | 25 mL | O | H2O
product | 9-Bromo-6-dipropylamino-5,6,7,8-tetrahydro-1H-benzo[f]indol-3-carbaldehyde | BrC=1C2=C(C=C3C(=CNC13)C=O)CC(CC2)N(CCC)CCC | C19H25BrN2O
